US08610111B2
9-(6-iodohexyl)-9H-carbazole
To a mixture of carbazole (0.5 g, 2.99 mmoles) in THF (6 mL), NaH (0.25 g, 6 mmoles) was slowly added. The mixture was stirred for 1 hour giving a solution. The resulting solution was introduced under nitrogen in a dropping funnel and slowly added in 10 minutes to a solution of 1,6-diiodo hexane (3 ml, 18 mmoles) in THF (2 mL). The reaction mixture stirred for 2 hours at room temperature, it was quenched with water and ice and THF was evaporated under reduced pressure. The mixture was extracted with ethyl ether (3×5 mL) and the organic phases were collected and combined, dried over Na2SO4 and evaporated under reduced pressure. The crude product was purified by chromatography (from n-hexane to n-hexane:CH2Cl2 10:1). Yield: 83%. Rf=0.55 (cyclohexane/dichloromethane 3/1).

reactant | carbazole | 2.99 mmoles, 0.5 g | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | NaH | 6 mmoles, 0.25 g | [H-].[Na+]
reactant | 1,6-diiodo hexane | 18 mmoles, 3 ml | ICCCCCCI | C6H12I2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 9-(6-iodohexyl)-9H-carbazole | Yield: 83% | ICCCCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C18H20IN
